US08048878B2
Synthesis of diethyl [(4R*,10aS*)-4-(4-fluorophenyl)-6-oxodecahydropyrido[1,2-a]azepin-7-yl]phosphonate
A mixture of (4R*,10aS*)-4-(4-fluorophenyl)-7-iodooctahydropyrido[1,2-a]azepin-6-one (208 mg) with triethyl phosphite (2 mL) was stirred at 120° C. for 1.5 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure to obtain 213 mg of the title compound. The property value of the compound is as follows.

reactant | (4R*,10aS*)-4-(4-fluorophenyl)-7-iodooctahydropyrido[1,2-a]azepin-6-one | 208 mg | FC1=CC=C(C=C1)[C@H]1CCC[C@@H]2N1C(C(CCC2)I)=O | C16H19FINO
reactant | triethyl phosphite | 2 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(4R*,10aS*)-4-(4-fluorophenyl)-6-oxodecahydropyrido[1,2-a]azepin-7-yl]phosphonate | 213 mg | FC1=CC=C(C=C1)[C@H]1CCC[C@@H]2N1C(C(CCC2)P(OCC)(OCC)=O)=O | C20H29FNO4P
